US07288541B2
To a solution of 100 mg (0.41 mmol) of tert-butyl (1S)-1-[(1S)-2-amino-1-hydroxyethyl]pentylcarbamate & tert-butyl (1S)-1-[(1R)-2-amino-1-hydroxyethyl]pentylcarbamate and 0.07 mL (0.46 mmol) of N,N-diisopropylethylamine in 0.5 mL dioxane was added 0.042 mL (0.46 mmol) of 2,6-difluoropyridine. The reaction mixture was stirred at 45° C. for 16 h, then at 50° C. for 20 h. The reaction mixture was then allowed to cool before being diluted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate:hexanes (3:7) to afford 40 mg (29%) of tert-butyl (1S)-1-{(1S)-2-[(6-fluoro-2-pyridinyl)amino]-1-hydroxyethyl}pentylcarbamate & tert-butyl (1S)-1-{(1R)-2-[(6-fluoro-2-pyridinyl)amino]-1-hydroxyethyl}pentylcarbamate. ES-LCMS m/z 364 (M+Na).

reactant | tert-butyl (1S)-1-[(1S)-2-amino-1-hydroxyethyl]pentylcarbamate | 0.41 mmol, 100 mg | NC[C@H](O)[C@H](CCCC)NC(OC(C)(C)C)=O | C12H26N2O3
reactant | tert-butyl (1S)-1-[(1R)-2-amino-1-hydroxyethyl]pentylcarbamate | NC[C@@H](O)[C@H](CCCC)NC(OC(C)(C)C)=O | C12H26N2O3
reactant | N,N-diisopropylethylamine | 0.46 mmol, 0.07 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,6-difluoropyridine | 0.46 mmol, 0.042 mL | FC1=NC(=CC=C1)F | C5H3F2N
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (1S)-1-{(1S)-2-[(6-fluoro-2-pyridinyl)amino]-1-hydroxyethyl}pentylcarbamate | 40 mg, 29% | FC1=CC=CC(=N1)NC[C@H](O)[C@H](CCCC)NC(OC(C)(C)C)=O | C17H28FN3O3
